US05516774
N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-2,3,5-trichlorobenzamide
As described for Example 8, 0.50 g of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine is reacted with 0.483 g of 2,3,5 -trichlorobenzoyl chloride to give a glass which is crystallized from ethyl acetate to give 0.686 g of crystals, m.p. 231°-234° C.

reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.50 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
reactant | 2,3,5 -trichlorobenzoyl chloride | 0.483 g | ClC1=C(C(=O)Cl)C=C(C=C1Cl)Cl | C7H2Cl4O
product | N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-2,3,5-trichlorobenzamide | 0.686 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C(=CC(=C1)Cl)Cl)Cl)=O | C26H18Cl3N3O2
